US08071584B2
5-Bromo-3-(1,1-dioxido-2-phenyltetrahydro-2H-thiopyran-4-yl)-1H-indole-7-carboxamide (100 mg, 0.224 mmol) was placed in a microwave vial and combined with 1,4-Dioxane (3 mL) and Water (1.5 mL). Argon was bubbled through the mixture for 10 mins, stirring and then PdCl2(dppf) (8.18 mg, 0.011 mmol) was added, and argon was bubbled another 10 mins. The vial was sealed and put under microwave 5 mins at 100° C. with high absorption parameter. The crude was evaporated to remove the most of the dioxane. Then it was partitioned between EtOAc and water. Organic layer was dried over magnesium sulfate and solvent removed under vacuum to afford 155 mg of crude material as a gummy brown oil which was dissolved in 1-2 mL of DMSO, and run through the ammonium Gilson to afford 17 mg of (racemic)-3-(1,1-dioxido-2-phenyltetrahydro-2H-thiopyran-4-yl)-5-phenyl-1H-indole-7-carboxamide.

reactant | 5-Bromo-3-(1,1-dioxido-2-phenyltetrahydro-2H-thiopyran-4-yl)-1H-indole-7-carboxamide | 0.224 mmol, 100 mg | BrC=1C=C2C(=CNC2=C(C1)C(=O)N)C1CC(S(CC1)(=O)=O)C1=CC=CC=C1 | C20H19BrN2O3S
reactant | 1,4-Dioxane | 3 mL | O1CCOCC1 | C4H8O2
reactant | Water | 1.5 mL | O | H2O
reactant | ammonium | [NH4+]
solvent | DMSO | 1-2 mL | CS(=O)C | C2H6OS
catalyst | PdCl2(dppf) | 0.011 mmol, 8.18 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | (racemic)-3-(1,1-dioxido-2-phenyltetrahydro-2H-thiopyran-4-yl)-5-phenyl-1H-indole-7-carboxamide | 17 mg | O=S1(C(CC(CC1)C1=CNC2=C(C=C(C=C12)C1=CC=CC=C1)C(=O)N)C1=CC=CC=C1)=O | C26H24N2O3S
